US04612321
In 20 ml of acetic acid was dissolved 4.3 g of 1-(5-indanyl)-2-(3-pyridyl)ethanone. To the solution was added 0.93 ml of bromine, which was stirred for one hour at 80°, then the reaction solution was cooled. Addition of 80 ml of ethylether gives a layer of oily substance. The supernatant was discorded, and the remainder was dissolved in 50 ml of acetonitrile. The solution was cooled to give 6.2 g of 2-bromo-1-(5-indanyl)-2-(3-pyridyl)ethanone hydrobromide, m.p. 176°-177° C. The yield was 86%.

reactant | 1-(5-indanyl)-2-(3-pyridyl)ethanone | 4.3 g | C1CCC2=CC(=CC=C12)C(CC=1C=NC=CC1)=O | C16H15NO
reactant | bromine | 0.93 ml | BrBr | Br2
reactant | ethylether | 80 ml | C(C)OCC | C4H10O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-bromo-1-(5-indanyl)-2-(3-pyridyl)ethanone hydrobromide | 6.2 g, yield was 86% | Br.BrC(C(=O)C=1C=C2CCCC2=CC1)C=1C=NC=CC1 | InChI=1S/C16H14BrNO.BrH/c17-15(14-5-2-8-18-10-14)16(19)13-7-6-11-3-1-4-12(11)9-13;/h2,5-10,15H,1,3-4H2;1H
